US07402595B2
6-bromo-1-oxo-4-phenyl-2-(4-sulfamoylbenzyl)-1,2-dihydroisoquinoline-3-carboxylic acid
The title compound (3.64 g, 71%) was synthesized by a method similar to that in Example 331 and using 6-bromo-1-oxo-4-phenyl-1H-isochromen-3-carboxylic acid and 4-sulfamoylbenzylamine hydrochloride.

reactant | 6-bromo-1-oxo-4-phenyl-1H-isochromen-3-carboxylic acid | BrC=1C=C2C(=C(OC(C2=CC1)=O)C(=O)O)C1=CC=CC=C1 | C16H9BrO4
reactant | 4-sulfamoylbenzylamine hydrochloride | Cl.S(N)(=O)(=O)C1=CC=C(CN)C=C1
product | 6-bromo-1-oxo-4-phenyl-2-(4-sulfamoylbenzyl)-1,2-dihydroisoquinoline-3-carboxylic acid | 3.64 g, 71% | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(N)(=O)=O)C(=O)O)C1=CC=CC=C1 | C23H17BrN2O5S
